US04567187
5.06 Grams of 6-hydroxy-7-(3-chloropropionyl)-3,4-dihydrocarbostyril and 1.8 g of anhydrous pyridine were mixed with 50 ml of dimethylformamide. Then the mixture was cooled with ice and 2.5 g of methanesulfonyl chloride was added to the mixture and stirred at a room temperature for 3 hours. The reactin mixture was poured into 100 ml of a saturated sodium chloride solution and extracted with chloroform. The chloroform layer was washed with water, dried and chloroform was removed by distillation under a reduced pressure to obtain a residue. The residue was crystallized by adding 80 ml of hexane to obtain crude crystals. The crude materials were collected by filtration and were recrystallized from ethanol to obtain 4.5 g of 6-methylsulfonyloxy-7-(3-chloropropionyl)-3,4-dihydrocarbostyril in white crystals.

reactant | 6-hydroxy-7-(3-chloropropionyl)-3,4-dihydrocarbostyril | OC=1C=C2CCC(NC2=CC1C(CCCl)=O)=O | C12H12ClNO3
reactant | methanesulfonyl chloride | 2.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | reactin | CN1CCC(=C2C3=CC=CC=C3C=CC4=CC=CC=C42)CC1 | C21H21N
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 1.8 g | N1=CC=CC=C1 | C5H5N
product | 6-methylsulfonyloxy-7-(3-chloropropionyl)-3,4-dihydrocarbostyril | 4.5 g | CS(=O)(=O)OC=1C=C2CCC(NC2=CC1C(CCCl)=O)=O | C13H14ClNO5S
